US07307175B2
Preparation of 2-chloro-6-ethyl-benzoic acid
3.60 g (21.2 mmol) of 2-chloro-6-ethylaniline in 60 ml of acetic acid is introduced into a reaction vessel and the clear, colourless solution is cooled to 6° C. At that temperature, 3.64 g (22.7 mmol) of a 43% aqueous sodium nitrite solution are added and then, in the course of 15 minutes, a solution of 4.32 g (42.4 mmol) of sulfuric acid (96%) in 7 ml of acetic acid is added dropwise. The resulting dark-red solution is then stirred for 30 minutes. When a diazo colour test, for example using dimethylaniline-coated indicator paper, is positive and a colour spot test, e.g. using KI indicator paper moistened with aqueous 1 N hydrochloric acid solution, is negative, 15 mg of sulfamic acid are added and then, at a temperature of 10° C., 8.7 ml (91.6 mmol) of acetic anhydride are added. The reaction mixture is then transferred to a glass autoclave and rinsed with 20 ml of acetic acid. At a temperature of 20° C. the autoclave is flushed out three times with nitrogen and then flushed out three times with CO. 220 mg of Pd2(dba)3.CHCl3 (0.212 mmol) in 5 ml of acetic acid are then metered in using a cannula at a CO pressure of 1 bar, then a CO pressure of 8 bar is applied and the reaction mixture is stirred overnight at 45° C.

reactant | 2-chloro-6-ethylaniline | 21.2 mmol, 3.60 g | ClC1=C(N)C(=CC=C1)CC | C8H10ClN
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | sulfuric acid | 42.4 mmol, 4.32 g | S(O)(O)(=O)=O | H2O4S
reactant | dimethylaniline | CN(C1=CC=CC=C1)C | C8H11N
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | sulfamic acid | 15 mg | S(N)(O)(=O)=O | H3NO3S
reactant | acetic anhydride | 91.6 mmol, 8.7 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | CHCl3 | 0.212 mmol | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 2-chloro-6-ethyl-benzoic acid | ClC1=C(C(=O)O)C(=CC=C1)CC | C9H9ClO2
